US07875645B2
rac-2-[1-(2-Fluoro-3-trifluoromethyl-phenyl)-propyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(2-fluoro-3-trifluoromethyl-phenyl)-butyronitrile and ethylene diamine in analogy to Example 19 b): colourless powder; MS (ISP): 275.0 ((M+H)+.).

reactant | rac-2-(2-fluoro-3-trifluoromethyl-phenyl)-butyronitrile | FC1=C(C=CC=C1C(F)(F)F)C(C#N)CC | C11H9F4N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(2-Fluoro-3-trifluoromethyl-phenyl)-propyl]-4,5-dihydro-1H-imidazole | FC1=C(C=CC=C1C(F)(F)F)C(CC)C=1NCCN1 | C13H14F4N2
